US05597832
13a. 5-(1,1-dimethylethyl)-3-thiophenecarboxaldehyde
To a solution of 3.63 g (32.4 mmol) of 3-thiophenecarboxaldehyde (Aldrich Chemical Co.) in 60 mL of methylene chloride cooled to 0° C. was added 9.17 g (80.9 mmol) of AICl3 and 2-methyl-2-bromopropane. The solution was stirred under N2 at room temperature for 16 hours and at reflux for 4 hours. The solution was then cooled to room temperature, and the reaction was quenched by pouring the solution into water. The mixture was made basic with aqueous NaHCO3 and extracted with ether. The ether extract was washed with water, dried over MgSO4 and concentrated. The residue was chromatographed on silica gel, eluting with 15:1 hexane:ethyl acetate, to afford 2.23 g of the title product as an oil, after removal of the solvent. NMR (CD3OD) δ:1.41 (s, 9H), 7.26 (d, 1 H, J=1 Hz), 8.2 (d, 1H, J=l Hz), 9.78 (s, 1H).

reactant | 3-thiophenecarboxaldehyde | 32.4 mmol, 3.63 g | S1C=C(C=C1)C=O | C5H4OS
reactant | 2-methyl-2-bromopropane | CC(C)(C)Br | C4H9Br
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 5-(1,1-dimethylethyl)-3-thiophenecarboxaldehyde | 2.23 g | CC(C)(C)C1=CC(=CS1)C=O | C9H12OS
